US09328111B2
8,9,10,11-Tetrahydro-2H-pyridazino[5,4,3-kl]acridin-3 (7H)-one
To the solution of the crude methyl 9-oxo-5,6,7,8,9,10-hexahydroacridine-1-carboxylate in DMA (4 mL) was added hydrazine hydrate (4 mL) at room temperature, and the mixture was heated at 130° C. for 4.0 h. The reaction mixture was cooled to room temperature and stirred for another 12 hours. Then the mixture was filtered and recrystallized from MeOH (twice) to give the product (20 m g, 15%) as a yellow solid.

reactant | methyl 9-oxo-5,6,7,8,9,10-hexahydroacridine-1-carboxylate | O=C1C=2CCCCC2NC=2C=CC=C(C12)C(=O)OC | C15H15NO3
reactant | hydrazine hydrate | 4 mL | O.NN
solvent | DMA | 4 mL | CC(=O)N(C)C | C4H9NO
product | 8,9,10,11-Tetrahydro-2H-pyridazino[5,4,3-kl]acridin-3 (7H)-one | N=1NC(C=2C=CC=C3NC=4CCCCC4C1C23)=O | C14H13N3O
